US04983723
To 5.2 ml of a 1.6M n-hexane solution of n-butyl lithium was added 15 ml of anhydrous THF at -78° C. (bath temperature) in a nitrogen atmosphere, and 1.3 g of a tetrahydropyranyl ether of 3-butyn-3-ol was added dropwise thereto under the same conditions over 10 minutes. After the addition, the mixture was stirred for 30 minutes. Then, 20 ml of an anhydrous THF solution containing 2.1 g of 2,4-bis(trimethylsiloxy)-2,5,5-trimethylcyclohexanone was added dropwise to the mixture under the same conditions over 20 minutes. After the dropwise addition, the mixture was stirred for 5 hours. A saturated ammonium chloride aqueous solution was added to the reaction mixture, and the mixture was extracted with diethyl ether. After the diethyl ether was removed from the extract by distillation, a 1N hydrochloric acid aqueous solution and methanol were added to the residue, followed by stirring at room temperature for 5 hours. The methanol was removed by distillation under reduced pressure, and the residue was extracted with diethyl ether. The organic layer was dried over anhydrous magnesium sulfate, and the solvent, etc. were removed by distillation under reduced pressure. The residue was purified by silica gel column chromatography to obtain 1.1 g (yield: 70%) of 4-(1,2,4-trihydroxy-2,5,5-trimethylcyclopentyl)but-3-en-2-ol.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | tetrahydropyranyl ether | 1.3 g | O1C(CCCC1)OC1OCCCC1 | C10H18O3
reactant | 2,4-bis(trimethylsiloxy)-2,5,5-trimethylcyclohexanone | 2.1 g | C[Si](OC1(C(CC(C(C1)O[Si](C)(C)C)(C)C)=O)C)(C)C | C15H32O3Si2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | n-hexane | 1.6M | CCCCCC | C6H14
product | 4-(1,2,4-trihydroxy-2,5,5-trimethylcyclopentyl)but-3-en-2-ol | 1.1 g, yield: 70% | OC1(C(CC(C1(C)C)O)(C)O)C=CC(C)O | C12H22O4
